### PR TITLE
chore: reorganize and rename the Embedding --> Homeomorph constructions

### PR DESCRIPTION
**Pull request by ADedecker**
- rename [Homeomorph.ofEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Homeomorph.html#Homeomorph.ofEmbedding) to `Embedding.toHomeomorph`
- move [Embedding.toHomeomeomorph_of_surjective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/IsLocalHomeomorph.html#Embedding.toHomeomeomorph_of_surjective) earlier (and remove the extra "meo")
- rename [Homeomorph.homeomorphOfContinuousOpen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Homeomorph.html#Homeomorph.homeomorphOfContinuousOpen) to `Homeomorph.ofContinuousOpenEquiv`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Homeomorph.lean [hunk 1]
```diff
@@ -475,15 +468,31 @@ theorem locallyCompactSpace_iff (h : X ≃ₜ Y) :
...
-    apply e.image_eq_preimage
+    rw [openEmbedding_of_continuous_injective_open h₁ e.injective h₂ |>.continuous_iff,
+        e.invFun_as_coe, e.self_comp_symm]
+    exact continuous_id
   toEquiv := e
-#align homeomorph.homeomorph_of_continuous_open Homeomorph.homeomorphOfContinuousOpen
+#align homeomorph.homeomorph_of_continuous_open Homeomorph.ofContinuousOpenEquiv
+
+@[deprecated] -- May 8th 2024
+alias homeomorphOfContinuousOpen := ofContinuousOpenEquiv
```
Comment (j-loreaux) [inline Mathlib/Topology/Homeomorph.lean:481]: Can you add deprecations for the other two declarations as well?

bors d+

**Comment by grunweg** [comment]
It looks like this PR is ready for landing, except for a merge conflict. Can you merge master, please? Thanks!

Personally, I find this PR a nice clean-up and would much prefer it to land - if you just need help merging master, I can certainly try to do so.

**Comment by grunweg** [comment]
Coming here for PR triage: this looks like it could be a useful PR. @ADedecker What's the current status of the PR? Do you have time to merge master (or re-do the PR)? I'll be happy to review a mechanical renaming PR.

**Comment by ADedecker** [comment]
Sorry, I was having a pretty rough time at this period last year. I'll update this.

**Comment by grunweg** [comment]
No worries, your well-being is more important than whatever code!
